US07560596B2
Synthesis of 3-(3-thienylethynyl)-pyridine (FIG. 6, Entry 7; I. Novak, S.-C. Ng, C.-Y. Mok, H.-H. Huang, J. Fang, K. K. T. Wang J. Chem. Soc. Perkin Trans 2 1994, 1771.)
The general procedure described in Example 27 was used with 3-chloropyridine (0.050 mL, 0.50 mmol), 3-ethynylthiophene (0.074 mL, 0.75 mmol), PdCl2(CH3CN)2 (3.2 mg, 0.0125 mmol, 1.25 mol %), sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate (20.0 mg, 0.0375 mmol, 3.75 mol %), Cs2CO3 (650 mg, 2.00 mmol), water (1.0 mL), acetonitrile (1.5 mL), 10 h, 100° C. The product was isolated as a white solid (86 mg, 93%). Mp=62° C. (lit. 65.5-64.0° C.). 1H NMR (400 MHz, CDCl3) δ: 8.75 (d, 1H, J=1.6 Hz), 8.54 (dd, 1H, J=2.0 Hz, 5.2 Hz), 7.79 (dt, 1H, J=8.0 Hz, 2.0 Hz), 7.57 (dd, 1H, J=2.8 Hz, 1.2 Hz), 7.32 (dd, 1H, J=5.2 Hz, 2.8 Hz), 7.27 (qd, 1H, J=0.8 Hz, 4.8 Hz, 3.2 Hz), 7.21 (dd, 1H, J=1.2 Hz, 5.2 Hz). 13C NMR (125 MHz, CDCl3) δ: 152.4, 148.7, 138.5, 129.9, 129.6, 125.9, 123.2, 121.8, 120.6, 87.9, 85.7.

reactant | 3-chloropyridine | 0.50 mmol, 0.050 mL | ClC=1C=NC=CC1 | C5H4ClN
reactant | 3-ethynylthiophene | 0.75 mmol, 0.074 mL | C(#C)C1=CSC=C1 | C6H4S
reactant | Cs2CO3 | 2.00 mmol, 650 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 1.0 mL | O | H2O
catalyst | sodium 2′-(dicyclohexyl-phosphanyl)-2,6-diisopropyl-biphenyl-4-sulfonate | 0.0375 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)S(=O)(=O)[O-])C(C)C)C1CCCCC1.[Na+]
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | 3-(3-thienylethynyl)-pyridine | 86 mg, 93% | S1C=C(C=C1)C#CC=1C=NC=CC1 | C11H7NS
